US08877970B2
To a solution of tert-butyl 4-(2-(2-(2-azidoethoxy)ethoxy)ethoxy)phenylcarbamate (1.78 g, 4.86 mmol) and 1-iodo-4-(prop-2-ynyloxy)benzene (1.25 g, 4.86 mmol) in THF (30 mL) was added H2O (8.0 mL), Cu powder (0.31 g, 4.86 mmol) and CuSO4 (0.12 g, 0.486 mmol). The reaction mixture was stirred at room temperature for at least 12 hours (overnight). The reaction mixture was filtered through celite and washed with EtOAc. The organic layer was separated, washed with EDTA solution, dried and concentrated in vacuo to give a crude product which was purified by flash chromatography with hexane/EtOAc (1:1) as eluent to give tert-butyl 4-(2-(2-(2-(4-((4-iodophenoxy)methyl)-1H-1,2,3-triazol-1-yl)ethoxy)ethoxy)ethoxy)phenylcarbamate (2.069 g, 68%). 1H NMR (400 MHz, CDCl3) δ 7.74 (s, 1H), 7.46 (d, J=9.2 Hz, 2H), 7.15 (d, J=8.8 Hz, 2H), 6.74 (d, J=9.2 Hz, 2H), 6.66 (d, J=8.8 Hz, 2H), 6.25 (brs, 1H), 5.04 (s, 2H), 4.47 (t, J=5.0 Hz, 2H), 3.99 (t, J=4.8 Hz, 2H), 3.79 (t, J=5.0 Hz, 2H), 3.80 (t, J=5.0 Hz, 2H), 3.71 (t, J=5.0 Hz, 2H), 3.60-3.53 (m, 4H), 1.44 (s, 9H); MS (ESI), 625 (M+H)+.

reactant | tert-butyl 4-(2-(2-(2-azidoethoxy)ethoxy)ethoxy)phenylcarbamate | 4.86 mmol, 1.78 g | N(=[N+]=[N-])CCOCCOCCOC1=CC=C(C=C1)NC(OC(C)(C)C)=O | C17H26N4O5
reactant | 1-iodo-4-(prop-2-ynyloxy)benzene | 4.86 mmol, 1.25 g | IC1=CC=C(C=C1)OCC#C | C9H7IO
reactant | H2O | 8.0 mL | O | H2O
solvent | THF | 30 mL | C1CCOC1 | C4H8O
catalyst | CuSO4 | 0.486 mmol, 0.12 g | [O-]S(=O)(=O)[O-].[Cu+2]
product | tert-butyl 4-(2-(2-(2-(4-((4-iodophenoxy)methyl)-1H-1,2,3-triazol-1-yl)ethoxy)ethoxy)ethoxy)phenylcarbamate | 2.069 g, 68% | IC1=CC=C(OCC=2N=NN(C2)CCOCCOCCOC2=CC=C(C=C2)NC(OC(C)(C)C)=O)C=C1 | C26H33IN4O6
